US07781428B2
2-(3-chloro-4-cyanophenyl)-3-(4-fluorophenyl)-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazol-7-yl trifluoromethanesulfonate
A mixture of 3-(4-fluorobenzylidene)-4-oxochroman-7-yl trifluoromethanesulfonate; Preparation 35 (200 mg, 0.50 mmol), 2-chloro-4-hydrazinylbenzonitrile hydrochloride (Preparation 1) (152 mg, 0.75 mmol), and ethanol (5 mL) was stirred under argon at 80° C. for three hours. The mixture was cooled to room temperature and concentrated. Water was added, the residue extracted three times with methylene chloride, washed with brine, dried over magnesium sulfate, filtered and condensed. The crude product was purified by normal phase flash column chromatography on a 20 g silica gel column (100% methylene chloride). Pure fractions were pooled and condensed to give the title compound (yellow solid, 75 mg, 0.14 mmol, 28% yield). The title compound was largely present as (±)-(3SR,3aSR)-2-(3-chloro-4-cyanophenyl)-3-(4-fluorophenyl)-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazol-7-yl trifluoromethanesulfonate. 1H NMR (400 MHz, DMSO-d6) δ ppm 3.25 (dd, J=12.89, 10.47 Hz, 1H), 4.22-4.35 (m, 1H), 4.42 (dd, J=10.34, 6.04 Hz, 1H), 6.00 (d, J=11.28 Hz, 1H), 6.77-7.51 (m, 8H), 7.68 (d, J=8.59 Hz, 1H), 8.10 (d, J=9.40 Hz, 1H). ES-MS m/z 553 (M+H).

reactant | 3-(4-fluorobenzylidene)-4-oxochroman-7-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=CC=C2C(C(COC2=C1)=CC1=CC=C(C=C1)F)=O)(F)F | C17H10F4O5S
reactant | 2-chloro-4-hydrazinylbenzonitrile hydrochloride | 0.75 mmol, 152 mg | Cl.ClC1=C(C#N)C=CC(=C1)NN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-(3-chloro-4-cyanophenyl)-3-(4-fluorophenyl)-2,3,3a,4-tetrahydrochromeno[4,3-c]pyrazol-7-yl trifluoromethanesulfonate | 0.14 mmol, 75 mg, 28% yield | FC(S(=O)(=O)OC=1C=CC2=C(C1)OCC1C2=NN(C1C1=CC=C(C=C1)F)C1=CC(=C(C=C1)C#N)Cl)(F)F | C24H14ClF4N3O4S
